Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
neck swelling and tenderness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ yr old female w/PMHx s/f migrane, hypothyroid, 
gerd, hld, osteoporosis, Raynaud who presents for ongoing left 
jaw and neck pain with swelling. 
 Pt states that she began feeling sx on ___, when she felt the 
onset of sore throat with associated pain and edema of the L 
jaw. Since that time she feels the pain which she localized to 
the L submandiular area and edema have spread and worsened, now 
limiting her ability to open her mouth and eat/speak properly. 
These pains were unresponsive to nabumatome and a muscle 
relaxant she had at home. 
 She presented to urgent care ___ where it was felt there was 
concern for dental infection so she was started on clindamycin. 
Given a lack of improvement, she then presented to ENT ___ 
where she endorsed the above symptoms and was additionally noted 
to have have disturbed sleep, pain with chewing/trismus and 
?dysphonia. No history dental issues. She was afebrile 
throughout this process.
 Ultimately it was suspected she had an infected lymph node, 
salivary gland blockage or dental infection vs developing 
abscess. She was sent to the ED for CT and ongoing symptoms. 

In the ED, she was evaluated by ENT who felt this was indeed 
related to sialdenitis. Initial vital signs were: 96.8  110  
139/82  16  97% RA. Labs were notable for a mild leukocytosis of 
10.6. 

Review of Systems:  
(+) per HPI  , (-) otherwise

 
Past Medical History:
Headache, common migraine 
Hypothyroidism 
Esophageal reflux 
Hypercholesterolemia 
Osteopenia 
VAGINITIS 
Raynaud's phenomenon 
OSTEOPOROSIS 
Trochanteric bursitis 
Atrophic vulvovaginitis 
Pelvic floor dysfunction 
Asthma 
Environmental allergies 
 
Social History:
___
Family History:
Mother  dementia 
 
Physical ___:
Admission Exam:
Vitals-  98.2, BP 161/88, HR 79, RR 20, O2 96% RA
GENERAL: AOx3, appears in pain
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact.  No 
conjunctival pallor or injection, sclera anicteric and without 
injection. Moist mucous membranes, good dentition.  Examination 
of oropharynx limited by pain.
NECK: Extremely tender on the left, from mid neck to 
submandibular region. Moderate swelling appreciated in left 
jaw/mandibular area.
CARDIAC: Regular rhythm, normal rate.
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants.
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: CN2-12 intact.  ___ strength througout.  Normal 
sensation.  

Discharge exam:
Vitals-  97.8, 150-170/80-90, 70s, 16, 94% RA
GENERAL: AOx3, appears calm
HEENT: Normocephalic, atraumatic. PEERL, EOMI, MMM.  Examination 
of oropharynx limited by pain.
NECK: Nontender to palpation. Improved swelling appreciated in 
left jaw/mandibular area. 
CARDIAC: Regular rhythm, normal rate.
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants.
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: CN2-12 intact. Symmetric smile. ___ strength 
througout.  Normal sensation.  
 
Pertinent Results:
Admission Labs:
___ 09:30PM BLOOD WBC-10.6* RBC-4.13 Hgb-12.2 Hct-37.9 
MCV-92 MCH-29.5 MCHC-32.2 RDW-13.2 RDWSD-44.5 Plt ___
___ 09:30PM BLOOD Neuts-73.9* Lymphs-15.1* Monos-9.6 
Eos-0.2* Baso-0.7 Im ___ AbsNeut-7.82* AbsLymp-1.59 
AbsMono-1.01* AbsEos-0.02* AbsBaso-0.07
___ 09:30PM BLOOD Glucose-78 UreaN-21* Creat-1.0 Na-134 
K-4.2 Cl-91* HCO3-24 AnGap-23*
___ 05:46AM BLOOD Calcium-8.5 Phos-2.5* Mg-2.1
___ 09:44PM BLOOD Lactate-1.4

Discharge labs:
___ 05:54AM BLOOD WBC-5.3 RBC-4.21 Hgb-12.8 Hct-38.3 MCV-91 
MCH-30.4 MCHC-33.4 RDW-13.2 RDWSD-43.9 Plt ___
___ 05:54AM BLOOD Glucose-91 UreaN-9 Creat-0.8 Na-141 K-3.6 
Cl-96 HCO3-27 AnGap-22*
___ 05:54AM BLOOD Calcium-9.1 Phos-3.6 Mg-2.2

Imaging:
CT Sinus/Mandible/Maxilla without contrast (___):
1. Examination is limited due to dental artifact. 
2. Extensive inflammatory/phlegmonous change extending from the 
left 
submandibular region, involving the floor of the mouth, and into 
the left 
parapharyngeal space, narrowing the airway, and deviating to the 
right.  No definite collection is identified.  Multiple reactive 
lymph nodes are seen on the left. 
3. The left internal jugular vein is not well visualized 
distally.  It may be compressed by adjacent inflammatory change, 
or may be congenitally 
hypoplastic. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman who presented with 1 week of 
worsening left submandibular pain and swelling concerning for 
acute bacterial sialadenitis. She was evaluated by ENT, and 
began treatment with Clindamycin 600 mg IV Q8H on ___ and 
pain control with oxycodone 5 mg q4h prn.

# Sialadenitis: She presented with 1 week of severe left jaw 
pain and worsening neck swelling. Evaluated by ENT, who felt 
that this sialadenitis. No airway compromise was noted exam, and 
patient did not notice any SOB. She remained hemodynamically 
stable and afebrile throughout admission (although she did 
briefly have a fever of 100.7 on ___ which resolved with 
Tylenol). She was treated with IV Clindamycin 600 mg q8h (Day 1 
= ___, sialogogues q2h, warm packs q4h, and salivary massages 
QID. Swelling of her neck improved throughout admission, and she 
was essentially back to baseline on ___. She will continue 
taking 600mg TID for 7 days (last day ___ and follow-up with 
Dr. ___ ___ a week. 

#Hypothyroidism: She should continue taking her home 
Levothyroxine Sodium 112 mcg PO DAILY 

#GERD: We held her home lansoprazole 30 mg oral DAILY, she can 
resume it as an outpatient.

#Vaginal atrophy: We held her home estradiol 0.1 mg vaginal 
twice weekly at night, she can resume it as an outpatient.

Transitional issues: 
- continue massages every 4 hours at home (firmly massaging in a 
motion to floor of mouth and submentum), replacing warm 
compresses every 4 hours or more often, and sucking on hard 
candies every 2 hours or more often. 
- ENT f/up in 1 week with Dr. ___

#Code Status: Full code 
#Emergency Contact/HCP: ___ (Son) ___

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Levothyroxine Sodium 112 mcg PO DAILY 
2. lansoprazole 30 mg oral DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
6. estradiol 0.1 mg vaginal twice weekly at night 

 
Discharge Medications:
1.  Clindamycin 600 mg PO Q8H Duration: 7 Days 
RX *clindamycin HCl 300 mg 2 capsule(s) by mouth every eight (8) 
hours Disp #*42 Capsule Refills:*0 
2.  Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing  
3.  estradiol 0.1 mg vaginal twice weekly at night  
4.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
5.  lansoprazole 30 mg oral DAILY  
6.  Levothyroxine Sodium 112 mcg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Sialedinitis

Secondary diagnosis:
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for an infection of your salivary glands after 
evaluation by our ENT team. You were treated with IV antibiotics 
(clindamycin 600 mg every 8 hours). You were also encouraged to 
apply hot packs every four hours, salivary massages four times 
per day, and sour candies every two hours. Your condition 
improved greatly with this treatment.

Once you leave, you should continue taking clindamycin 600 mg 
every 8 hours for 7 days (your last day will be ___. You 
should also continue using the hot packs, performing salivary 
massages, and eating sour candies. Please also take over the 
counter probiotic supplements while you are on antibiotics. You 
will see an ENT physician (likely Dr. ___ in follow-up in one 
week. Please call them (___) to schedule an appointment 
for one week after your discharge. 

It was a pleasure to take care of you. We wish you all the best. 


Sincerely,
Your ___ team
 
Followup Instructions:
___